US06080816
Synthesis of Cyclohexanedimethanol/Silane Adduct
Melt cyclohexanedimethanol in laboratory oven. When melted, take 294.7 g of cyclohexanedimethanol along with 0.11 g dibutyl tin dilaurate and place in a flask at about 35° C. Add 419.5 g of isocyanatopropyltrimethoxysilane over 75 minutes. Then hold for two hours. Cool and empty.

reactant | cyclohexanedimethanol | C1(CCCCC1)(CO)CO | C8H16O2
reactant | cyclohexanedimethanol | 294.7 g | C1(CCCCC1)(CO)CO | C8H16O2
reactant | dibutyl tin dilaurate | 0.11 g | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | isocyanatopropyltrimethoxysilane | 419.5 g | N(=C=O)CCC[Si](OC)(OC)OC | C7H15NO4Si
product | Cyclohexanedimethanol Silane | C1(CCCCC1)(CO)CO.[SiH4] | InChI=1S/C8H16O2.H4Si/c9-6-8(7-10)4-2-1-3-5-8;/h9-10H,1-7H2;1H4
